US07906517B2
1-Methoxy-5-methyl-4-nitro-2-trifluoromethyl-benzene (10 g) is dissolved in methanol (100 ml), and thereto is added 10% palladium-carbon (1 g) and the mixture is stirred under hydrogen atmosphere at room temperature for 1 day. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure to give 4-methoxy-2-methyl-5-trifluoromethyl-phenylamine (9.07 g). MS (m/z): 206 [M+H]+

reactant | 1-Methoxy-5-methyl-4-nitro-2-trifluoromethyl-benzene | 10 g | COC1=C(C=C(C(=C1)C)[N+](=O)[O-])C(F)(F)F | C9H8F3NO3
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 4-methoxy-2-methyl-5-trifluoromethyl-phenylamine | 9.07 g | COC1=CC(=C(C=C1C(F)(F)F)N)C | C9H10F3NO
